US04992435
2-Bromo-5,6-dihydro-6-hydroxy-5.5-dimethyl-7-(2-oxopiperidin-1-yl)-7H-thieno[3,2-b]pyran
The title compound was prepared as described in Example 4 starting with 5,6-dihydro-6-hydroxy-5,5-dimethyl-7-(2-oxopiperidin-1-yl)-7H-thieno[3,2-b]pyran (1.4 g, 5.0 mmol) and bromine (0.27 mL, 5.2 mmol) in dichloromethane (30 mL). Purification by flash chromatography using 1% methanol in dichloromethane as the eluant and recrystallization from dichloromethane/hexanes gave the product, 3.87 g (78%), as a colorless solid: mp 200°-202° C.; IR(KBr): 3442, 2942, 1616, 1571 and 1488 cm-1 ; MS: m/z 360 (MH+); 1H NMR(CDCl3): δ 1.29 (s, 3H), 1.46 (s, 3H), 1.82 (m, 4H), 2.51 (m, 2H), 3.12 (m, 1H), 3.27 (m, 1H), 3.46 (d, J=5.0 Hz, 1H, exchanges with D2O),3.78 (d,d, J=9.0 Hz, J=5.0 Hz,1H, simplifies to d, J=9.0 Hz, with D2O), 5.74 (d, J=9.0 Hz, 1H) and 7.58 (s, 1H).

reactant | 5,6-dihydro-6-hydroxy-5,5-dimethyl-7-(2-oxopiperidin-1-yl)-7H-thieno[3,2-b]pyran | 5.0 mmol, 1.4 g | OC1C(C2=C(OC1(C)C)C=CS2)N2C(CCCC2)=O | C14H19NO3S
reactant | bromine | 5.2 mmol, 0.27 mL | BrBr | Br2
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | 2-Bromo-5,6-dihydro-6-hydroxy-5.5-dimethyl-7-(2-oxopiperidin-1-yl)-7H-thieno[3,2-b]pyran | BrC1=CC=2OC(C(C(C2S1)N1C(CCCC1)=O)O)(C)C | C14H18BrNO3S
